US05952355
Substantially the same procedure as in Process 1 of Example 48 was repeated using 3,4,5-trimethoxybenzaldehyde (3.92 g) and benzylmagnesium bromide (2.0 M diethyl ether solution, 23 ml) to give 3,4,5-trimethoxydeoxybenzoin (3.51 g).

reactant | 3,4,5-trimethoxybenzaldehyde | 3.92 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | benzylmagnesium bromide | 2.0 M, 23 ml | C(C1=CC=CC=C1)[Mg]Br
product | 3,4,5-trimethoxydeoxybenzoin | 3.51 g | COC=1C=C(C=C(C1OC)OC)C(=O)CC1=CC=CC=C1 | C17H18O4
